US07470716B2
3-(3-hydroxy-piperidin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole
A mixture of 0.12 g 5-(3-methyl-but-2-enyl)amino-[1,3,4]oxadiazole-2-carboxylic acid-(naphth-1-ylmethyl)-amide and 1.80 g 3-hydroxypiperidine is stirred for 20 min at 200° C. in a microwave. After cooling to ambient temperature dichloromethane is added, the organic phase is washed once with water and once with 1 M hydrochloric acid, dried over sodium sulphate, and the solvent is removed.

reactant | 5-(3-methyl-but-2-enyl)amino-[1,3,4]oxadiazole-2-carboxylic acid-(naphth-1-ylmethyl)-amide | 0.12 g | C1(=CC=CC2=CC=CC=C12)CNC(=O)C=1OC(=NN1)NCC=C(C)C | C19H20N4O2
reactant | 3-hydroxypiperidine | 1.80 g | OC1CNCCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3-hydroxy-piperidin-1-yl)-4-(3-methyl-but-2-enyl)-5-(naphth-1-ylmethylaminocarbonyl)-4H-[1,2,4]triazole | OC1CN(CCC1)C1=NN=C(N1CC=C(C)C)C(=O)NCC1=CC=CC2=CC=CC=C12 | C24H29N5O2
